US06977263B2
Ethyl 4,6-Dichloroquinoline-3-carboxylate [prepared as described in C. C. Price and R. M. Roberts J. Amer. Chem. Soc. 68, 1204 (1964); C. J. Ohnmacht, Jr. J. Med. Chem. 14, 17 (1971)](2.0 g, 7.4 mmol) was added portionwise to a solution of sodium borohydride (1.2 g, 31 mmol) in 15 ml of methoxyethanol at about 0° C. The reaction mixture was warmed to room temperature over 3 hours then diluted with ethyl acetate. After standard aqueous workup (dil HCl; saturated NaHCO3) the organic layer was dried (NaSO4) and concentrated to a residue. The residue was exposed to air oxidation (about 14 days) and extracted repeatedly with boiling heptane. The heptane was removed in vacuo to yield ethyl 6-chloroquinoline-3-carboxylate as a beige solid. 1H NMR [(CDCl3), 300 MHz]: δ 9.38 (bs, 1H), 8.68 (s, 1H), 8.05 (d, 1H), 7.83 (s, 2H), 7.69 (d, 1H), 4.40 (q, 2H), 1.39 (t, 3H). MS(EI): 236(M++H).

reactant | Ethyl 4,6-Dichloroquinoline-3-carboxylate | 7.4 mmol, 2.0 g | ClC1=C(C=NC2=CC=C(C=C12)Cl)C(=O)OCC | C12H9Cl2NO2
reactant | sodium borohydride | 31 mmol, 1.2 g | [BH4-].[Na+]
solvent | methoxyethanol | 15 ml | COC(C)O | C3H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 6-chloroquinoline-3-carboxylate | ClC=1C=C2C=C(C=NC2=CC1)C(=O)OCC | C12H10ClNO2
